US07655670B2
1-(methylcarbonyloxy-methyl)-5-(4-t-butyl-cyclohexyl-methyl)-spiro[indoline-3,4′-piperidin]-2-one (Compound #29)
1-(Methoxycarbonyl-methyl)-spiro[indoline-3,4′-piperidin]-2-one (0.0137 g, 0.049 mmol) and 4-tert-butyl-cyclohexanecarbaldehyde (0.01 g, 0.06 mmol) were dissolved in dry 1,2-dichloroethane (1.5 mL). To the reaction mixture was then added glacial acetic acid (0.003 g, 0.049 mmol) under nitrogen atmosphere and the reaction mixture was stirred at room temperature for 30 minutes. To the reaction mixture was then added, at room temperature, sodium triacetoxyborohydride (0.018 g, 0.084 mmol) under nitrogen atmosphere and the reaction mixture was stirred at room temperature for 18 hours. The reaction mixture was then partitioned with aqueous NaHCO3 and dichloromethane. The organic layer was washed with brine, dried with Na2SO4, filtered and the solvent evaporated in vacuo to yield a crude oil. The crude oil was purified via flash chromatography (4.5% ammonia 2.0 M in methanol/dichloromethane) to yield the title compound as an oil.

reactant | 1-(Methoxycarbonyl-methyl)-spiro[indoline-3,4′-piperidin]-2-one | 0.049 mmol, 0.0137 g | COC(=O)CN1C(C2(CCNCC2)C2=CC=CC=C12)=O | C15H18N2O3
reactant | 4-tert-butyl-cyclohexanecarbaldehyde | 0.06 mmol, 0.01 g | C(C)(C)(C)C1CCC(CC1)C=O | C11H20O
reactant | acetic acid | 0.049 mmol, 0.003 g | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.084 mmol, 0.018 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 1.5 mL | ClCCCl | C2H4Cl2
product | 1-(methylcarbonyloxy-methyl)-5-(4-t-butyl-cyclohexyl-methyl)-spiro[indoline-3,4′-piperidin]-2-one | CC(=O)OCN1C(C2(CCNCC2)C2=CC(=CC=C12)CC1CCC(CC1)C(C)(C)C)=O | C26H38N2O3
